US07572820B2
C. 2-Methyl-1-(phenylsulfonyl)-4-(trifluoromethyl)-1H-indole
To a solution of 1-(phenylsulfonyl)-4-(trifluoromethyl)-1H-indole (60.0 g, 184.6 mmol) in THF (300 mL) at 0° C. was added n-BuLi (88.6 mL of a 2.50 M solution in hexanes), dropwise over 5 min. The mixture was stirred 1 h and methyl iodide (23.0 mL, 369.2 mmol) was added dropwise over 5 min. The mixture was stirred at 0° C. for 2.5 h and then overnight, slowly warming to rt, poured into water and extracted with Et2O (×3). Combined organics were washed (H2O, brine), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording 26.0 g of the title compound as a colorless oil: MS (ES) m/z 338 (M−1).

reactant | 1-(phenylsulfonyl)-4-(trifluoromethyl)-1H-indole | 184.6 mmol, 60.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)C(F)(F)F | C15H10F3NO2S
reactant | n-BuLi | [Li]CCCC
reactant | methyl iodide | 369.2 mmol, 23.0 mL | CI | CH3I
reactant | water | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-Methyl-1-(phenylsulfonyl)-4-(trifluoromethyl)-1H-indole | 26.0 g | CC=1N(C2=CC=CC(=C2C1)C(F)(F)F)S(=O)(=O)C1=CC=CC=C1 | C16H12F3NO2S
